US04603198
A mixture of ethanol and 270 mg of sodium was cooled in an ice-bath and 1.91 g of N-hydroxyphthalimide was added to the mixture. 594 mg of 4-(chloromethyl)imidazole hydrochloride was added thereto under stirring at room temperature and the resulting mixture was stirred for 14 hours. The solvent was distilled off and SSB was added to the residue and the mixture was extracted with chloroform. The extract was washed with SSC and dried with sodium sulfate and then concentrated to dryness. The residue was recrystallized from a mixture of diisopropyl ether and ether to give 553 mg of N-((imidazol-4-yl)methoxy)phthalimide with mp 163°-165° C.

reactant | sodium | 270 mg | [Na] | Na
reactant | N-hydroxyphthalimide | 1.91 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-(chloromethyl)imidazole hydrochloride | 594 mg | Cl.ClCC=1N=CNC1
solvent | ethanol | C(C)O | C2H6O
product | N-((imidazol-4-yl)methoxy)phthalimide | 553 mg | N1C=NC(=C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C12H9N3O3
